US06291452B1
A mixture of N-[(3RS)-1-(Azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-formyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (300 mg), hydroxylamine hydrochloride (41 mg) and sodium acetate (51 mg) in acetic acid (1.5 ml) was stirred at ambient temperature for 2.5 hours. Acetic anhydride (0.4 ml) was added to the reaction mixture, and the resultant mixture was stirred at 90° C. for 11.5 hours. After the reaction mixture was allowed to cool to ambient temperature, ethyl acetate and aqueous sodium hydrogen carbonate were added into the mixture successively under stirring. The separated organic layer was washed with aqueous sodium hydrogen carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a residue, which was subjected to column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (4:1) to give N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-5-cyano-2,3-dihydro-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea as crystalline powder (80 mg).

reactant | N-[(3RS)-1-(Azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-formyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 300 mg | N1(CCCCCCC1)C(=O)CN1C(C(N=C(C2=C1C(=CC=C2)C)C=O)NC(=O)NC2=CC(=CC=C2)C)=O | C28H33N5O4
reactant | hydroxylamine hydrochloride | 41 mg | Cl.NO
reactant | sodium acetate | 51 mg | C(C)(=O)[O-].[Na+]
reactant | Acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-5-cyano-2,3-dihydro-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 80 mg | N1(CCCCCCC1)C(=O)CN1C(C(N=C(C2=C1C(=CC=C2)C)C#N)NC(=O)NC2=CC(=CC=C2)C)=O | C28H32N6O3
